US09216988B2
To a solution of (4-bromo-2-fluoro-phenyl)methanamine (3 g, 14.7 mmol) in dichloromethane (50 mL) was added N,N-diisopropylethylamine (3.3 mL, 19.1 mmol), followed by phenylmethanesulfonyl chloride (3.3 g, 17.6 mmol) and the reaction was stirred at ambient temperature for 3 hours. The reaction was diluted with dichloromethane and washed with water and brine, dried with MgSO4, concentrated and purified by silica gel column chromatography (20-100% EtOAc in heptane) to give N-[(4-bromo-2-fluoro-phenyl)methyl]-1-phenyl-methanesulfonamide (4.22 g, 80% yield). LCMS (m/z) ES+ 358 [M+1]+.

reactant | (4-bromo-2-fluoro-phenyl)methanamine | 14.7 mmol, 3 g | BrC1=CC(=C(C=C1)CN)F | C7H7BrFN
reactant | N,N-diisopropylethylamine | 19.1 mmol, 3.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenylmethanesulfonyl chloride | 17.6 mmol, 3.3 g | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[(4-bromo-2-fluoro-phenyl)methyl]-1-phenyl-methanesulfonamide | 4.22 g, 80% yield | BrC1=CC(=C(C=C1)CNS(=O)(=O)CC1=CC=CC=C1)F | C14H13BrFNO2S
